US08242104B2
Step 5: 4-Chloro-5-[4-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-1H-imidazol-2-yl]-2-methoxy-pyridine
A suspension of 4-chloro-6-methoxy-nicotinamidine hydrochloride (18.4 mmol) and potassium bicarbonate (7.37 g, 73.6 mmol) in THF (42 mL) and water (8.5 mL) was heated to reflux and treated with a solution of 2-bromo-1-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-ethanone (4.53 g, 18.4 mmol) in THF (14 mL) added dropwise. The reaction mixture was heated at reflux for 18 h before removal of volatile solvent in vacuo. The resultant suspension was filtered and the residue washed with water then dried to give the title compound as a brown solid (5.91 g, 97%). LCMS: RT=2.68 min, [M+H]+=333/335. 1H NMR 400 MHz (CDCl3) δ: 10.41 (1H, s), 9.02 (1H, s), 7.81 (1H, s), 6.87 (1H, s), 5.91 (1H, m), 4.00 (3H, s), 2.41 (3H, s), 1.55 (6H, d, J=6.71 Hz).

reactant | 4-chloro-6-methoxy-nicotinamidine hydrochloride | 18.4 mmol | Cl.ClC1=CC(=NC=C1C(=N)N)OC
reactant | potassium bicarbonate | 73.6 mmol, 7.37 g | C([O-])(O)=O.[K+]
reactant | 2-bromo-1-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-ethanone | 18.4 mmol, 4.53 g | BrCC(=O)C=1N(N=C(N1)C)C(C)C | C8H12BrN3O
solvent | THF | 42 mL | C1CCOC1 | C4H8O
solvent | water | 8.5 mL | O | H2O
solvent | THF | 14 mL | C1CCOC1 | C4H8O
product | 4-Chloro-5-[4-(2-isopropyl-5-methyl-2H-[1,2,4]triazol-3-yl)-1H-imidazol-2-yl]-2-methoxy-pyridine | 5.91 g, 97% | ClC1=CC(=NC=C1C=1NC=C(N1)C=1N(N=C(N1)C)C(C)C)OC | C15H17ClN6O
